US20010016659A1
To a solution of 4-(3-(N-methylsulfarnoyl)phenyloxy)benzene (0.30 g, 1.14 mmol) in TFA (6 mL) at −10° C was added NaNO2 (0.097 g, 1.14 mmol) in portions over 5 min. The resulting solution was stirred at −10° C. for 1 h, then was allowed to warm to room temp., and was concentrated under reduced pressure. The residue was separated between EtOAc (10 mL) and water (10 mL). The organic phase was sequentially washed with water (10 mL) and a saturated NaCl solution (10 mL), dried (MgSO4) and concentrated under reduced pressure to give 4-(3-(N-methylsulfamoyl)phenyloxy)-1-nitrobenzene (0.20 g). This material carried on to the next step without further purification.

reactant | 4-(3-(N-methylsulfarnoyl)phenyloxy)benzene | 1.14 mmol, 0.30 g | CNS(=O)(=O)C=1C=C(C=CC1)OC1=CC=CC=C1 | C13H13NO3S
reactant | NaNO2 | 1.14 mmol, 0.097 g | N(=O)[O-].[Na+]
solvent | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(3-(N-methylsulfamoyl)phenyloxy)-1-nitrobenzene | 0.20 g | CNS(=O)(=O)C=1C=C(C=CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H12N2O5S
